US04218464
3,4-Bis(trifluoromethyl)phtalic acid (33 g., 0.11 mol.) in 70 ml. of tetrahydrofuran is refluxed with 450 ml. of 1.0 M diborane in tetrahydrofuran for four hours. Excess diborane is destroyed with water to yield 3,4-bis(trifluoro- methyl)-1,2-benzenedimethanol.

reactant | 3,4-Bis(trifluoromethyl)phtalic acid | 0.11 mol, 33 g | FC(C1=C(C(C(=O)O)=CC=C1C(F)(F)F)C(=O)O)(F)F | C10H4F6O4
reactant | diborane | 1.0 M | B#B | B2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3,4-bis(trifluoro- methyl)-1,2-benzenedimethanol | FC(C1=C(C(=CC=C1C(F)(F)F)CO)CO)(F)F | C10H8F6O2
